US05980780
(2) Preparation of 4-acetoxy-2-fluoro-1-(1-methylheptyloxycarbonyl)benzene
To 10.8 g (0.06 mol) of 4-acetoxy-2-fluorobenzoic acid was added 60 ml of thionyl chloride, and the mixture was allowed to react under reflux for 7 hours. Then, excess thionyl chloride was distilled off, and 10 ml of pyridine and 5.3 g (0.0402 mol) of 2-octanol were added dropwise. The resultant mixture was stirred at room temperature for a whole day, and then diluted with 200 ml of ether. An organic layer was washed with dilute hydrochloric acid, with a 1N sodium hydroxide aqueous solution and with water in this order, and dried over magnesium sulfate.

reactant | 4-acetoxy-2-fluorobenzoic acid | 0.06 mol, 10.8 g | C(C)(=O)OC1=CC(=C(C(=O)O)C=C1)F | C9H7FO4
reactant | thionyl chloride | 60 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-octanol | 0.0402 mol, 5.3 g | CC(CCCCCC)O | C8H18O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-acetoxy-2-fluoro-1-(1-methylheptyloxycarbonyl)benzene | C(C)(=O)OC1=CC(=C(C=C1)C(=O)OC(CCCCCC)C)F | C17H23FO4
